US07592373B2
4.270.a. 1-[2-(2-methoxy-4-nitrophenoxy)ethyl]-4-methylpiperidine
Prepared analogously to Example 1.1 C. from 1-(2-bromoethoxy)-2-methoxy-4-nitrobenzene and 4-methylpiperidine. Yield: 0.7 g (88.2% of theory); C15H22N2O4 (M=294.35); calc.: molecular ion peak (M+H)+: 295; found: molecular ion peak (M+H)+: 295; Rf value: 0.5 (silica gel, dichloromethane/methanol (9:1)).

reactant | 1-(2-bromoethoxy)-2-methoxy-4-nitrobenzene | BrCCOC1=C(C=C(C=C1)[N+](=O)[O-])OC | C9H10BrNO4
reactant | 4-methylpiperidine | CC1CCNCC1 | C6H13N
solvent | dichloromethane methanol | ClCCl.CO
product | 1-[2-(2-methoxy-4-nitrophenoxy)ethyl]-4-methylpiperidine | COC1=C(OCCN2CCC(CC2)C)C=CC(=C1)[N+](=O)[O-] | C15H22N2O4
